US05776964
2-Butyl-5-hydroxymethyl-4-iodo-imidazole
4-DMAP (1.2 g; 10 mmol) and N-iodosuccinimide (25 g; 111 mmol) were added to a solution of 2-butyl-4-hydroxymethyl-imidazole (15.4 g; 100 mmol) in dioxane (210 ml) and 2-methoxyethanol (140 ml) and the mixture was stirred overnight at 50° C. Concentration gave 44.4 g of a brownish-yellow magma (theory; 28 g), which was further reacted without further purification. For characterisation, 2 g of the crude product were dissolved using ethyl acetate and washed with 5% NaHCO3 solution and saturated sodium chloride solution. Drying and concentration of the organic phases gave 1.2 g of a yellow solid [97% of theory; m.p.: 135°-40° C. (dec.); Rf : 0.24 (methylene chloride:methanol=10:1)].

reactant | N-iodosuccinimide | 111 mmol, 25 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-butyl-4-hydroxymethyl-imidazole | 100 mmol, 15.4 g | C(CCC)C=1NC=C(N1)CO | C8H14N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-DMAP | 10 mmol, 1.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dioxane | 210 ml | O1CCOCC1 | C4H8O2
solvent | 2-methoxyethanol | 140 ml | COCCO | C3H8O2
product | 2-Butyl-5-hydroxymethyl-4-iodo-imidazole | 1.2 g, 97% | C(CCC)C=1NC(=C(N1)I)CO | C8H13IN2O
